US05412094
The pH of aqueous loracarbef monohydrate mother liquor (1000 ml, having 9.23 mg/ml of loracarbef monohydrate) was adjusted to 3.6 with HCl. Ethyl p-hydroxybenzoate (ethyl paraben) (4.52g) in ethanol (36 ml) was added dropwise over 15 minutes. After approximately 5 minutes, precipitation occurred, resulting in white crystals. The mixture was stirred overnight (15 hrs) at room temperature, filtered, washed with H2O, and dried under vacuum at 40° C. The yield was 11.72 g having a potency of 73.5% as loracarbef, and the theoretical yield was 8.78 g as loracarbef, resulting in a percent yield of 98.2%. The loracarbef:ethyl paraben exhibited the following X-ray powder diffraction pattern:

reactant | loracarbef monohydrate | C1CC(=C(N2C1C(C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)C(=O)O)Cl.O
reactant | HCl | Cl | ClH
reactant | Ethyl p-hydroxybenzoate | 4.52g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | loracarbef | yield of 98.2% | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N | C16H16ClN3O4
